### PR TITLE
Define GrpPullback, AbPullback and prove corecursion principle

### PR DESCRIPTION
**Pull request by jarlg**
Implements pullbacks of groups in [Groups/GrpPullback.v](https://github.com/jarlg/HoTT/blob/GrpPullback/theories/Algebra/Groups/GrpPullback.v) by equipping `Pullback f g` (from Limits/Pullback.v) with a group structure whenever `f`, `g` are group homomorphisms. If the groups involved are abelian, so is the pullback -- this is what [AbGroups/AbPullback.v](https://github.com/jarlg/HoTT/blob/GrpPullback/theories/Algebra/AbGroups/AbPullback.v) amounts to.

I'm unsure about which instances should be Global vs Local. Currently only the [Group instance for `Pullback f g`](https://github.com/jarlg/HoTT/blob/3eeee0b774f59343a14cd970ca7865f9d590e25f/theories/Algebra/Groups/GrpPullback.v#L91) is Global and the [two instances in AbPullback.v](https://github.com/jarlg/HoTT/blob/3eeee0b774f59343a14cd970ca7865f9d590e25f/theories/Algebra/AbGroups/AbPullback.v#L11) as well.

Should [`isequiv_grp_pullback_corec`](https://github.com/jarlg/HoTT/blob/3eeee0b774f59343a14cd970ca7865f9d590e25f/theories/Algebra/Groups/GrpPullback.v#L158) and [`isequiv_ab_pullback_corec`](https://github.com/jarlg/HoTT/blob/3eeee0b774f59343a14cd970ca7865f9d590e25f/theories/Algebra/AbGroups/AbPullback.v#L43) be instances?

### CODE REVIEW

File: theories/Algebra/AbGroups/AbPullback.v [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+
+  Definition AbPullback
+    : AbGroup := Build_AbGroup (GrpPullback f g) _ _ _ _.
+
+  Proposition ab_pullback_corec {X : AbGroup}
+              (b : X $-> B) (c : X $-> C)
+              (p : f o b == g o c)
+    : X $-> AbPullback.
+  Proof.
+    exact ((@grp_pullback_corec A B C f g X) b c p).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbPullback.v:33]:
```suggestion
    exact ((grp_pullback_corec f g) b c p).
```

File: theories/Algebra/AbGroups/AbPullback.v [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+  Defined.
+
+  Corollary ab_pullback_corec' {X : AbGroup}
+    : {b : X $-> B & {c : X $-> C & f o b == g o c}}
+      -> (X $-> AbPullback).
+  Proof.
+    intros [b [c p]]; exact (ab_pullback_corec b c p).
+  Defined.
+
+  Theorem isequiv_ab_pullback_corec {X : AbGroup} `{Funext}
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbPullback.v:43]: We like to have `Funext` args at the front, so:
```suggestion
  Theorem isequiv_ab_pullback_corec `{Funext} {X : AbGroup}
```
However, because of the `Context` at the start of the `Section`, we still end up with `Funext` in the middle of the list of arguments.  So it would probably be better to end the section before this result.

File: theories/Algebra/AbGroups/AbPullback.v [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+    : X $-> AbPullback.
+  Proof.
+    exact ((@grp_pullback_corec A B C f g X) b c p).
+  Defined.
+
+  Corollary ab_pullback_corec' {X : AbGroup}
+    : {b : X $-> B & {c : X $-> C & f o b == g o c}}
+      -> (X $-> AbPullback).
+  Proof.
+    intros [b [c p]]; exact (ab_pullback_corec b c p).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbPullback.v:40]: Making these all parallel references to the results in GrpPullback makes the pattern clear:
```suggestion
    exact (grp_pullback_corec' f g).
```

File: theories/Algebra/AbGroups/AbPullback.v [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+  Defined.
+
+  Theorem isequiv_ab_pullback_corec {X : AbGroup} `{Funext}
+    : IsEquiv (@ab_pullback_corec' X).
+  Proof.
+    srapply isequiv_grp_pullback_corec.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbPullback.v:46]:
```suggestion
    exact (isequiv_grp_pullback_corec f g).
```
(Just for the sake of the pattern.)

File: theories/Algebra/Groups/GrpPullback.v [hunk 5]
```diff
@@ -0,0 +1,175 @@
...
+
+  Lemma grp_pullback_corec_pr2 {X : Group}
+        (b : X $-> B) (c : X $-> C)
+        (p : f o b == g o c)
+    : grp_pullback_pr2 f g $o grp_pullback_corec f g b c p = c.
+  Proof.
+    apply equiv_path_grouphomomorphism; reflexivity.
+  Defined.
+
+  Theorem isequiv_grp_pullback_corec `{Funext} (X : Group)
```
Comment (jdchristensen) [inline theories/Algebra/Groups/GrpPullback.v:158]:
```suggestion
  Theorem isequiv_grp_pullback_corec (X : Group)
```
`Funext` is in the Context.

File: theories/Algebra/AbGroups/AbPullback.v (hunk 2 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/AbPullback.v]: Thanks! I've fixed this in the next commit.

File: theories/Algebra/AbGroups/AbPullback.v [hunk 6]
```diff
@@ -0,0 +1,50 @@
...
+    apply (grp_pullback_corec' f g).
+  Defined.
+
+End AbPullback.
+
+Theorem isequiv_ab_pullback_corec `{Funext} {A B C X : AbGroup}
+        (f : B $-> A) (g : C $-> A)
+  : IsEquiv (ab_pullback_corec' f g X).
+Proof.
+  apply (isequiv_grp_pullback_corec f g).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbPullback.v:49]: It doesn't matter much, but doesn't `exact` work in place of the last three `apply`s?  `exact` gives a bit more info to the reader.

Comment (jarlg) [reply theories/Algebra/AbGroups/AbPullback.v]: Yep, I just needed to supply the last parameter 'X'.

Comment (jarlg) [reply theories/Algebra/AbGroups/AbPullback.v]: I realize now I had a confusion earlier, the fact that 'exact' works here tells me these three last results are indeed redundant. In the interest of code brevity I'm going to remove them and refer to the grp variants.

File: theories/Algebra/Groups/GrpPullback.v [hunk 7]
```diff
@@ -0,0 +1,175 @@
...
+    unfold grp_pullback_sgop; simpl.
+    apply equiv_path_pullback; simpl.
+    refine (right_inverse _; right_inverse _; _).
+    apply equiv_sq_path.
+    apply path_ishprop.
+  Defined.
+
+  Global Instance isgroup_grp_pullback : IsGroup (Pullback f g) := {}.
+
+  Definition GrpPullback : Group
```
Comment (Alizter) [inline theories/Algebra/Groups/GrpPullback.v:93]: I would suggest naming this `grp_pullback`.

File: theories/Algebra/AbGroups/AbPullback.v [hunk 8]
```diff
@@ -0,0 +1,31 @@
...
+    apply equiv_path_pullback; simpl.
+    refine (commutativity _ _; commutativity _ _; _).
+    apply equiv_sq_path.
+    apply path_ishprop.
+  Defined.
+
+  Global Instance isabgroup_ab_pullback
+    : IsAbGroup (GrpPullback f g) := {}.
+
+  Definition AbPullback
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbPullback.v:25]: This might also be better named as ab_pullback

**Comment by Alizter** [comment]
Local instances are fine when constructing a group like you have. When you have a group `G` all its typeclass data are automatically instances anyway so there is no reason to have two sets of identical instances.

File: theories/Algebra/Groups/GrpPullback.v (hunk 7 above)
Comment (jarlg) [reply theories/Algebra/Groups/GrpPullback.v:93]: I think the current naming is consistent with [STYLE.md](https://github.com/HoTT/HoTT/blob/master/STYLE.md#general-principles), and prefixing with the property being proven is how I see it usually written in Algebra/. Could you explain your reasoning here? To me, `grp_pullback` sounds like the function creating the pullback (like `grp_prod` which creates the product of two groups, in Groups/Group.v).

Comment (jarlg) [reply theories/Algebra/Groups/GrpPullback.v:93]: I think the renaming is fine; it's inline with `grp_prod`, `grp_image`, `grp_kernel`. The outlier seems to be quotient groups, for which the constructor is `QuotientGroup G N` (and `QuotientAbGroup G N`).

Comment (Alizter) [reply theories/Algebra/Groups/GrpPullback.v]: That's a good point, I should rename that.

Comment (jarlg) [reply theories/Algebra/Groups/GrpPullback.v]: Cool! Is there an explanation why `Pullback` (from Limits/Pullback.v) is capitalized, whereas in Algebra/ the "constructors" aren't? From my reading of [STYLE.md](https://github.com/HoTT/HoTT/blob/master/STYLE.md#capitalization-and-spacing) it seems types should be capitalized. Since all the groups in question (products, images, kernels, pullbacks) are types, shouldn't the constructors be capitalized? I.e. `QuotientGroup` is the one adhering to STYLE.md, it seems to me.
